US07868179B2
2-phenylphenol;
8-hydroxyquinoline sulfate; acibenzolar-5-methyl; aldimorph; amidoflumet; ampropylfos; ampropylfos-potassium; andoprim; anilazine; azaconazole; azoxystrobin;

reactant | 8-hydroxyquinoline sulfate | S(=O)(=O)(O)O.OC=1C=CC=C2C=CC=NC12
reactant | aldimorph | CCCCCCCCCCCCN1CC(OC(C1)C)C | C18H37NO
reactant | amidoflumet | COC(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C(F)(F)F | C9H7ClF3NO4S
reactant | ampropylfos | CCC(N)P(=O)(O)O | C3H10NO3P
reactant | ampropylfos potassium | CCC(N)P(=O)(O)O.[K]
reactant | anilazine | C1=CC=C(C(=C1)NC2=NC(=NC(=N2)Cl)Cl)Cl | C9H5Cl3N4
reactant | azaconazole | C1=CC(=C(C=C1Cl)Cl)C2(OCCO2)CN3C=NC=N3 | C12H11Cl2N3O2
reactant | azoxystrobin | CO/C=C(\C1=CC=CC=C1OC2=NC=NC(=C2)OC3=CC=CC=C3C#N)/C(=O)OC | C22H17N3O5
product | 2-phenylphenol | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
